US04168269
4,9-Dihydro-9-phenethyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
To a solution of 17.28 g. of 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one in 100 ml. of dimethylformamide is added 4.2 g. of 50% sodium hydride in mineral oil. The mixture is stirred for one hour and 16.0 g. of phenethyl bromide and 20 mg. of potassium iodide are added. The mixture is stirred for 48 hours. The solution is evaporated. The residual gum is washed with water and hexane, dissolved in methylene chloride, washed with water, dried over magnesium sulfate and filtered through magnesol. The crystals which form in the filtrate are removed by filtration. This filtrate is evaporated in vacuo giving the desired product as dark brown crystals.

reactant | 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C=1SC=C2NC3=C(NC(C21)=O)C=CC=C3 | C11H8N2OS
reactant | sodium hydride | [H-].[Na+]
reactant | phenethyl bromide | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4,9-Dihydro-9-phenethyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C(CC1=CC=CC=C1)N1C(C=2C(NC3=C1C=CC=C3)=CSC2)=O | C19H16N2OS
